US07253192B2
C] 1-Prop-2-ynyl-cyclobutanecarboxylic acid ethyl ester
In analogy to the procedure described in example 24C], reaction of ethyl cyclobutanecarboxylate and propargyl bromide gave the title compound as brown liquid.

reactant | ethyl cyclobutanecarboxylate | C1(CCC1)C(=O)OCC | C7H12O2
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | 1-Prop-2-ynyl-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC1)CC#C | C10H14O2
